US07625932B2
Preparation of 4-cyano-3-(4-hydroxyphenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Add a 1:2 ethanol:THF mixture to 20% palladium hydroxide on carbon (catalytic, 29.4 g) followed by 3-(4-benzyloxy-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (97.93 g, 0.271 mol, prepared in examples E-6a or E-6b). Subject the reaction to 344.74 kPa (50 psi) of hydrogen gas. After 18 hours, filter and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes to provide the title compound. Mass spectrum (m/e): 271.1 (M+1).

reactant | ethanol | C(C)O | C2H6O
reactant | 3-(4-benzyloxy-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 0.271 mol, 97.93 g | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C#N)C | C22H20N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 29.4 g | [OH-].[OH-].[Pd+2]
solvent | THF | C1CCOC1 | C4H8O
product | 4-cyano-3-(4-hydroxyphenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)O)C#N)C | C15H14N2O3
